* FILENAME:        NE325S01.CIR
* NEC PART NUMBER: NE325S01
* LAST MODIFIED:   12/97
* BIAS CONDITIONS: Vds=1V to 3V,  Id=5mA to 30mA
* FREQ RANGE:      0.1GHz to 18GHZ
*
* Idss=59.9mA at Vds=2V, Vgs=0V
* Vp =-0.928V at Vds=2V, Id=0.1mA
*
* TOM GaAsFET Model
*
*             CGDpkg
*       ,-------||----------------------------. 
*       |                                     |
*       |                                     | 
*       |                  ---o--Rd-Ldx--Rdx--o--o
*       |                 |   |               |  DRAIN 
*GATE   |             I --    RDB             | 
*    o--o--Rgx--Lgx---I Q1    |               |
*       |             I---    CBS             |
*       |                 |___|               |
*       |                 |                   |
*       |                 Rs                  |
*       |                 |                   |
*       |                Lsx                  |
*       |                 |                   |
*       |                Rsx                  |
*       |   CGSpkg        |          CDSpkg   |
*       `----||-----------o-----------||------'
*                         |
*                         o SOURCE
*
*       Lgx=0.69nH              Rgx=6 ohms              CGSpkg=0.07pF
*       Lsx=0.07nH              Rsx=0.06 ohms   CDSpkg=0.05pF
*       Ldx=0.6nH               Rdx=6 ohms              CGDpkg=0.001pF
*       RDB=700 ohms            Rd=2 ohms
*       CBS=100pF             Rs=2 ohms
*
*                    d g s
.SUBCKT NE325S01/CEL 2 1 3
Z1  10  7 11 NE32500
RDB 10 12 700
CBS 12 11 100E-12
Rs  11  9 2
Rd  10  8 2
Lgx  4  7 0.69E-9
Ldx  8  5 0.6E-9
Lsx  9  6 0.07E-9
Rgx  1  4 6
Rdx  2  5 6
Rsx  6  3 0.06
CGDpkg 1 2 0.001E-12
CDSpkg 2 3 0.05E-12
CGSpkg 1 3 0.07E-12
.MODEL NE32500 NMF (LEVEL=3
+ VTO=-0.8      ALPHA=8          BETA=0.103        GAMMA=0.08
+ Q=2           DELTA=1          VBI=0.715         IS=3e-13
+ N=1.22        TAU=4e-12        CDS=0.13e-12      CGS=0.3e-12
+ CGD=0.02e-12  VDELTA=0.1       FC=0.5            RG=3
+ RD=0          RS=0             KF=0              AF=1   
+ XTI=3         EG=1.43          VTOTC=0           BETATCE=0) 
.ENDS
*$

