* FILENAME:        NE721S01.CIR
* NEC PART NUMBER: NE721S01
* LAST MODIFIED:   12/97
* BIAS CONDITIONS: Vds=2V to 4V,  Id=20mA to 40mA
* FREQ RANGE:      0.1GHz to 18GHZ
*
* Idss=58.9mA at Vds=3V, Vgs=0V
* Vp =-1.91V  at Vds=3V, Id=0.1mA
*
* TOM GaAsFET Model
*
*             CGDpkg
*       ,-------||----------------------------. 
*       |                                     |
*       |                                     | 
*       |                  ---o--Rd-Ldx--Rdx--o--o
*       |                 |   |               |  DRAIN 
*GATE   |             I --    RDB             | 
*    o--o--Rgx--Lgx---I Q1    |               |
*       |             I---    CBS             |
*       |                 |___|               |
*       |                 |                   |
*       |                 Rs                  |
*       |                 |                   |
*       |                Lsx                  |
*       |                 |                   |
*       |                Rsx                  |
*       |   CGSpkg        |          CDSpkg   |
*       `----||-----------o-----------||------'
*                         |
*                         o SOURCE
*
*       Lgx=0.71nH              Rgx=0.06 ohms           CGSpkg=0.055pF
*       Lsx=0.1nH                     Rsx=0.06 ohms             CDSpkg=0.06pF
*       Ldx=0.58nH              Rdx=0.06 ohms           CGDpkg=0.001pF
*       RDB=3000 ohms           Rd=6 ohms
*       CBS=10pF              Rs=4 ohms
*
*                    d g s
.SUBCKT NE721S01/CEL 2 1 3
Z1  10  7 11 NE72100
RDB 10 12 3000
CBS 12 11 10E-12
Rs  11  9 4
Rd  10  8 6
Lgx  4  7 0.715E-9
Ldx  8  5 0.58E-9
Lsx  9  6 0.1E-9
Rgx  1  4 0.06
Rdx  2  5 0.06
Rsx  6  3 0.06
CGDpkg 1 2 0.001E-12
CDSpkg 2 3 0.06E-12
CGSpkg 1 3 0.055E-12
.MODEL NE72100 NMF (LEVEL=3
+ VTO=-1.699    ALPHA=2.5        BETA=0.0254       GAMMA=0.09
+ Q=1.95        DELTA=1.1        VBI=0.8           IS=1e-14
+ N=1.2         TAU=6e-12        CDS=0.18e-12      CGS=0.7e-12
+ CGD=0.055e-12 VDELTA=1         FC=0.5            RG=7
+ RD=0          RS=0             KF=1.36e-10       AF=1.74
+ XTI=3         EG=1.43          VTOTC=0           BETATCE=0) 
.ENDS
*$

