*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  

*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal

*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com

*//////////////////////////////////////////////////////////
*LM359 DUAL HIGH-SPEED CURRENT MODE OP-AMP MACRO-MODEL
*//////////////////////////////////////////////////////////
* Connections:      I_IN(+)
*                   | COMMON
*                   | | I_IN(-)
*                   | | |   Output
*                   | | | |   VCC
*                   | | | | | Comp.
*                   | | | | | | ISET(out)  
*                   | | | | | | | ISET(in)
*                   | | | | | | | |
.SUBCKT LM359/NS    1 2 3 4 5 6 7 8 
Q1 1 1 2 QINMOD
Q2 3 1 2 QINMOD
Q3 6 3 2 QINMOD
Q4 6 41 5 QPMOD
RL1 5 6 120K  
FA1 41 5 VSNS2 2e-2  
CMP1 6 2 13e-12   
EA1 35 39 6 2 1.0 
R_XT 35 19 1e4 
RSER 19 36 100 
C_XT 36 2 3e-13 
Q5 5 19 11 QOUT1 
Q6 5 11 12 QBG 10  
RSC 12 4 10  
Q15 4 18 2 QBG 10  
FB1 2 18 VSNS1 0.09 
Q18 6 24 2 QINMOD  
RQ18 24 25 100
EQ18 25 2 12 4 1.7
EPSR2 39 2 47 2 1.0 
EPSR1 46 2 5 2 1.0  
CBG 46 47 1e-3 
RBG 47 2 10K 
DO1 5 13 DMOD1
VSNS1 13 14 DC 0  
RSET1 14 7 500  
DO2 16 2 DMOD1
VSNS2 15 16 DC 0   
RSET2 8 15 500  
RPWR 5 2 3.3K  
.MODEL DMOD1 D
.MODEL QPMOD PNP (BF=100)
.MODEL QINMOD NPN (BF=100 RE=5 RC=100) 
.MODEL QOUT1 NPN (BF=100 RC=50)   
.MODEL QBG NPN (BF=100 RC=10)     
.ENDS 
*$
